US06881737B2
To a slurry of (4-chloro-[1,3,5]triazin-2-yl)-(3,4,5-trimethoxy-phenyl)amine (54.9 mg, 0.185 mmol) in IpOH (2.5 ml) was added DIEA (0.048 mL, 0.277 mmol) and N-(3-aminophenyl)acrylamide (33 mg, 0.203 mmol). The mix was heated at 100° C. for 18 h. The solution was cooled to RT and a precipitate formed. The precipitate was filtered off and dried under reduced pressure to give N-{3-[4-(3,4,5-trimethoxy-phenylamino)-[1,3,5]triazin-2-ylamino]-phenyl)-acrylamide: MS m/z=423[M+H]+. Calc'd for C2H22N6O4: 422.17.

reactant | (4-chloro-[1,3,5]triazin-2-yl)-(3,4,5-trimethoxy-phenyl)amine | 0.185 mmol, 54.9 mg | ClC1=NC(=NC=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C12H13ClN4O3
reactant | DIEA | 0.277 mmol, 0.048 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(3-aminophenyl)acrylamide | 0.203 mmol, 33 mg | NC=1C=C(C=CC1)NC(C=C)=O | C9H10N2O
product | N-{3-[4-(3,4,5-trimethoxy-phenylamino)-[1,3,5]triazin-2-ylamino]-phenyl)-acrylamide | COC=1C=C(C=C(C1OC)OC)NC1=NC(=NC=N1)NC=1C=C(C=CC1)NC(C=C)=O | C21H22N6O4
